US05114461
Concentrated sulphuric acid (80 ml) was added at 0°-5° C. to a stirred solution of methyl cyanoacetate (28 ml) and ethyl 3-hydroxy-3-phenylbutyrate (65 g) and the mixture stirred at ambient temperature for 18 hours. The mixture was added to crushed ice (250 g) and the acidic mixture extracted with dichloromethane (3×100 ml). The combined extracts were washed with water (4×250 ml), dried over sodium sulphate and evaporated under reduced pressure to give ethyl 3-(methoxycarbonylacetamido)-3-phenylbutyrate (43.16 g), as a clear brown oil.

reactant | methyl cyanoacetate | 28 ml | C(#N)CC(=O)OC | C4H5NO2
reactant | ethyl 3-hydroxy-3-phenylbutyrate | 65 g | OC(CC(=O)OCC)(C)C1=CC=CC=C1 | C12H16O3
reactant | sulphuric acid | 80 ml | S(O)(O)(=O)=O | H2O4S
product | ethyl 3-(methoxycarbonylacetamido)-3-phenylbutyrate | 43.16 g | COC(=O)CC(=O)NC(CC(=O)OCC)(C)C1=CC=CC=C1 | C16H21NO5
